US06586633B1
Production of N-(4-tert-Butylbenzyl)methylamine (Alternative Method)
p-tert-butyltoluene (14.8 g; 0.10 mol) was dissolved in carbon tetrachloride, and N-bromosuccinimide (17.8 g; 0.10 mol) and benzoyl peroxide (200 mg) were added thereto. The mixture was refluxed for 2 hours, and then cooled. Insoluble matter was filtered off, followed by washing with carbon tetrachloride. The filtrate was concentrated under reduced pressure, and the residue was dissolved in n-hexane, followed by drying over magnesium sulfate. The solvent was evaporated under reduced pressure, to thereby yield 22.7 g of p-tert-butylbenzyl bromide (yield: 100%). The thus-obtained product was analyzed by 1H-NMR, and was found to be a mixture of the target compound, starting compounds, and a dibromo compound (10:1:1). Sodium carbonate (10.6 g; 0.10 mol) was added to 40% solution of methylamine in methanol (200 ml). While the mixture was cooled in an ice bath, p-tert-butyl benzyl bromide (22.7 g; 0.10 mol) in methanol (20 ml) was added dropwise thereto. The mixture was removed from the ice bath, and stirred for 41 hours at room temperature. Methanol was removed under reduced pressure, and the residue was taken up in water, followed by extraction with ether (400 ml). The ether layer was extracted with 1N hydrochloric acid twice (200 ml and 100 ml), and the aqueous layer was extracted with ethyl acetate. The aqueous layer was alkalinized with aqueous 2N sodium hydroxide solution, and extracted with ether (400 ml), followed by drying over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform:methanol=200:1→100:1→20:1), to thereby yield 9.51 g of the target compound (yield: 53.7%).

reactant | Sodium carbonate | 0.10 mol, 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methylamine | CN | CH5N
reactant | p-tert-butyl benzyl bromide | 0.10 mol, 22.7 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | N-(4-tert-Butylbenzyl)methylamine | yield 9.51 g, yield: 53.7% | C(C)(C)(C)C1=CC=C(CCN)C=C1 | C12H19N
